US04957928
34.1 g (0.396 mol) of acrylic acid methyl ester are added at room temperature to a solution of 32.25 g (0.18 mol) of 2-(2-aminoethyl)-benzo-1,4-dioxan [J. Augustin et al., J. Med. Chem. 8, 446 (1965)] in 250 ml of methanol. The reaction mixture is stirred for 6 hours at 50° and, after cooling, is concentrated by evaporation in vacuo. 57.9 g (91.5%) of N,N-bis(2-methoxycarbonylethyl)-N-[2-(benzo-1,4-dioxan-2-yl)ethyl]-amine are obtained in the form of a red oil.

reactant | acrylic acid methyl ester | 0.396 mol, 34.1 g | COC(C=C)=O | C4H6O2
reactant | 2-(2-aminoethyl)-benzo-1,4-dioxan | 0.18 mol, 32.25 g | NCCC1COC2=C(O1)C=CC=C2 | C10H13NO2
solvent | methanol | 250 ml | CO | CH4O
product | N,N-bis(2-methoxycarbonylethyl)-N-[2-(benzo-1,4-dioxan-2-yl)ethyl]-amine | 57.9 g, 91.5% | COC(=O)CCN(CCC1COC2=C(O1)C=CC=C2)CCC(=O)OC | C18H25NO6
